US06255494B1
Preparation of (RS) 2-(4-chlorophenoxymethyl)-4-[5-(piperidin-4-yl)pentoxy]-1-[3-(piperidin-3-yl)propyl]-benzimidazole
The title product is prepared from (RS) 2-(4-chlorophenoxymethyl)-4-[5-[1-(t-butoxycarbonyl)piperidin-4-yl]pentoxy]-1-[3-[1-(t-butoxycarbonyl)piperidin-3-yl]propyl]benzimidazole using a standard trifluoroacetic acid deprotection protocol.

reactant | (RS) 2-(4-chlorophenoxymethyl)-4-[5-[1-(t-butoxycarbonyl)piperidin-4-yl]pentoxy]-1-[3-[1-(t-butoxycarbonyl)piperidin-3-yl]propyl]benzimidazole | ClC1=CC=C(OCC2=NC3=C(N2CCCC2CN(CCC2)C(=O)OC(C)(C)C)C=CC=C3OCCCCCC3CCN(CC3)C(=O)OC(C)(C)C)C=C1 | C42H61ClN4O6
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | (RS) 2-(4-chlorophenoxymethyl)-4-[5-(piperidin-4-yl)pentoxy]-1-[3-(piperidin-3-yl)propyl]-benzimidazole | ClC1=CC=C(OCC2=NC3=C(N2CCCC2CNCCC2)C=CC=C3OCCCCCC3CCNCC3)C=C1 | C32H45ClN4O2
